US06756374B2
A solution of bromine (0.31 mL, 5.9 mmol) in carbon tetrachloride (10 mL) was added to a suspension of N-(4-acetylphenyl)acetamide (1 g, 5.6 mmol) (Lancaster Synthesis) in carbon tetrachloride (20 mL). The reaction mixture was stirred for several hours but TLC indicated only starting material. Acetic acid (10 mL) was added, and the reaction mixture was stirred overnight. Filtration gave N-[4-(bromoacetyl)phenyl]acetamide (1.4 g) as a solid. HPLC indicated that the purity was approximately 80%. This material was used directly in subsequent steps without purification.

reactant | bromine | 5.9 mmol, 0.31 mL | BrBr | Br2
reactant | N-(4-acetylphenyl)acetamide | 5.6 mmol, 1 g | C(C)(=O)C1=CC=C(C=C1)NC(C)=O | C10H11NO2
reactant | Acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[4-(bromoacetyl)phenyl]acetamide | 1.4 g | BrCC(=O)C1=CC=C(C=C1)NC(C)=O | C10H10BrNO2
